US07030116B2
(R)-5-(2-Difluoromethoxy-phenyl)-2-((S)-1-hydroxy-2-morpholin-4-yl-2-oxo-ethyl)-pentanoic acid[(S)-1-(oxazole-2-carbonyl)-propyl]-amide
It is similarly prepared according to the general procedure for Example 10 using (S)-2-Amino-1-oxazol-2-yl-butan-1-one; hydrochloride as the amino component and (R)-5-(2-Difluoromethoxy-phenyl)-2-((S)-1-hydroxy-2-morpholin-4-yl-2-oxo-ethyl)-pentanoic acid as the acidic component but without further oxidation step.

reactant | (S)-2-Amino-1-oxazol-2-yl-butan-1-one | N[C@H](C(=O)C=1OC=CN1)CC | C7H10N2O2
reactant | hydrochloride | Cl | ClH
reactant | (R)-5-(2-Difluoromethoxy-phenyl)-2-((S)-1-hydroxy-2-morpholin-4-yl-2-oxo-ethyl)-pentanoic acid | FC(OC1=C(C=CC=C1)CCC[C@@H](C(=O)O)[C@@H](C(=O)N1CCOCC1)O)F | C18H23F2NO6
product | (R)-5-(2-Difluoromethoxy-phenyl)-2-((S)-1-hydroxy-2-morpholin-4-yl-2-oxo-ethyl)-pentanoic acid[(S)-1-(oxazole-2-carbonyl)-propyl]-amide | O1C(=NC=C1)C(=O)[C@H](CC)NC([C@H](CCCC1=C(C=CC=C1)OC(F)F)[C@@H](C(=O)N1CCOCC1)O)=O | C25H31F2N3O7
